US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(piperazin-1-yl)-phenyl]-2′-(5-fluoro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
At room temperature, trifluoroacetic acid (2 mL) was added into a solution of racemic (2′S,3S,4′R)-4′-[2-(4-tert-butoxycarbonyl-piperazin-1-yl)-5-chloro-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (280 mg, 0.43 mmol) in DCM (10 mL). After stirred for 2 h, the mixture was concentrated. The residue was dissolved in EtOAc, washed with 1 N NaOH and water, dried over anhydrous Na2SO4 and concentrated to give the title compound as a light yellow solid (230 mg).

reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | racemic (2′S,3S,4′R)-4′-[2-(4-tert-butoxycarbonyl-piperazin-1-yl)-5-chloro-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.43 mmol, 280 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)Cl)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O | C34H35Cl2FN4O4
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(piperazin-1-yl)-phenyl]-2′-(5-fluoro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 230 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)N1CCNCC1)=O)C1=C(C=CC(=C1)F)C)=O | C29H27Cl2FN4O2
